US04187316
A solution of 240 mg (1 m mole) of 3-tert-butoxycarbonylamino-1,5-cyclohexadiene carboxylic acid in 5 ml of dichloromethane is treated with 202 mg (2 m mole) of triethylamine and 94 mg (1 m mole) of methyl chloroformate. After 30 minutes at 25° C. the solution is treated with 60 mg (1 m mole) of n-propylamine for 1 hour at 25° C. after which the solution is diluted with dichloromethane, washed with water, dryed and evaporated. The residue is stirred for 18 hours in 7 ml of methanol and 3.5 ml of 5% aqueous HCl. Evaporation affords N-propyl-3-amino-1,5-cyclohexadienecarboxamide hydrochloride.

reactant | 3-tert-butoxycarbonylamino-1,5-cyclohexadiene carboxylic acid | 240 mg | C(C)(C)(C)OC(=O)NC1C=C(C=CC1)C(=O)O | C12H17NO4
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 94 mg | ClC(=O)OC | C2H3ClO2
reactant | n-propylamine | 60 mg | C(CC)N | C3H9N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-propyl-3-amino-1,5-cyclohexadienecarboxamide hydrochloride | Cl.C(CC)NC(=O)C1=CC(CC=C1)N | InChI=1S/C10H16N2O.ClH/c1-2-6-12-10(13)8-4-3-5-9(11)7-8;/h3-4,7,9H,2,5-6,11H2,1H3,(H,12,13);1H
